US04382934
A mixture of 1-benzhydrylpiperazin (4.13 g), 1-bromo-3-chloropropane (5.18 g) and anhydrous potassium carbonate (2.26 g) in anhydrous acetone (82 ml) was refluxed for 10 hours under stirring. The insoluble materials were filtered off and the filtrate was evaporated to dryness. The residue was subjected to column chromatography on alumina (50 g) using benzene as an eluent. The fractions containing the object compound were collected and evaporated to give oil of 1-benzhydryl-4-(3-chloropropyl)piperazine (3.04 g).

reactant | 1-benzhydrylpiperazin | 4.13 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 1-bromo-3-chloropropane | 5.18 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 2.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 82 ml | CC(=O)C | C3H6O
product | 1-benzhydryl-4-(3-chloropropyl)piperazine | 3.04 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCCl | C20H25ClN2
